* D:\UTN\Nivel_4\Tecnicas_Digitales_2\Bode_Analyzer\Circuitos de prueba\Notch.asc
V1 N001 0 AC 1
R1 N002 N001 2k2
R2 Vo N002 2k2
C1 N002 0 100n
C2 N003 N001 100n
C3 Vo N003 100n
R3 N003 0 570
.ac dec 1k 1 100k
.backanno
.end
