* D:\UTN\Nivel_4\Tecnicas_Digitales_2\Bode_Analyzer\Circuitos de prueba\PasaAltos.asc
V1 N001 0 AC 1
R1 0 Vo 10k
C1 Vo N001 100n
.ac dec 100 1 1meg
.backanno
.end
